US08541588B2
tert-Butyl 4-[2-methoxy-5-(trifluoromethyl)phenyl]piperidine-1-carboxylate
tert-Butyl 4-[2-methoxy-5-(trifluoromethyl)phenyl]-3,6-dihydropyridine-1(2H)-carboxylate (Preparation 319, 512 mg, 1.43 mmol) was hydrogenated for 16 hours over palladium (10 wt. % on activated carbon, 10 mg, 0.009 mmol) at a pressure of 40 psi. The reaction mixture was filtered through Celite™ and concentrated in vacuo to afford the title compound as a white solid, 503 mg.

reactant | tert-Butyl 4-[2-methoxy-5-(trifluoromethyl)phenyl]-3,6-dihydropyridine-1(2H)-carboxylate | 1.43 mmol, 512 mg | COC1=C(C=C(C=C1)C(F)(F)F)C=1CCN(CC1)C(=O)OC(C)(C)C | C18H22F3NO3
catalyst | palladium | 0.009 mmol, 10 mg | [Pd] | Pd
product | tert-Butyl 4-[2-methoxy-5-(trifluoromethyl)phenyl]piperidine-1-carboxylate | COC1=C(C=C(C=C1)C(F)(F)F)C1CCN(CC1)C(=O)OC(C)(C)C | C18H24F3NO3
